US05703194
A dispersion of 50 weight percent sodium hydride (4.0 g, 83 mmol) in mineral oil was washed with hexanes and suspended in 200 milliliters of dimethylformamide. A solution of 30 grams of 2,2,3,3,4,4,5,5,6,6,7,7,8,8,8-pentadecafluorooctan-1-ol (75 mmol) in 50 milliliters of dimethylformamide was added over a period of 3 hours, and the resulting mixture was stirred at room temperature for one hour. Next, a solution of 9.3 grams (77 mmol) of 3-chloromethyl-3-methyloxetane in 20 milliliters of dimethylformamide was added and the resulting mixture was heated at 75° C. for 16 hours. The mixture was cooled to room temperature and slowly poured into 1 liter of ice/water and extracted with two volumes of Freon 113. The combined organic extracts were washed twice with water, once with 2 weight percent aqueous hydrochloric acid and once with brine, dried over magnesium sulfate, filtered, and evaporated to give 32 grams of crude product. The crude product was distilled under reduced pressure to give 26.5 grams (73%) of analytically pure 3-(2,2,3,3,4,4,5,5,6,6,7,7,8,8,8-pentadecafluorooctoxymethy)-3-methyloxetane (i.e., 15-FOX), an oil with a boiling point of 68° to 70° C./1.6 mm-Hg. The experimental analyses were: 1H NMR (CDCl3 /Freon 113) δ 4.49 and 4.37 (AB, J=5.5 Hz, 4H), 4.00 (triplet, J=13.2 Hz, 2H), 3.70 (singlet, 2H), and 1.32 (singlet, 3H); 13C NMR δ 21.02, 40.33, 68.77 (triplet, J=146.2 Hz), 78.60, and 79.87 (signals from carbon bearing fluorine are not included due to complex splitting patterns and low peak intensities); 19F NMR δ -81.3 (3 F), -119.9 (2 F), -122.6 (2 F), -123.3 (2 F), --123.5 (2 F), -123.9 (2 F) and -126.8 (2 F). The elemental analysis was: Calculated for C13 H11F15O2 : C, 32.2; H, 2.3; F, 58.9. Found: C, 32.2; H, 2.2; F, 58.3.

reactant | sodium hydride | 83 mmol, 4.0 g | [H-].[Na+]
reactant | 2,2,3,3,4,4,5,5,6,6,7,7,8,8,8-pentadecafluorooctan-1-ol | 75 mmol, 30 grams | FC(CO)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8H3F15O
reactant | 3-chloromethyl-3-methyloxetane | 77 mmol, 9.3 grams | ClCC1(COC1)C | C5H9ClO
solvent | dimethylformamide | 200 milliliters | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 milliliters | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 milliliters | CN(C=O)C | C3H7NO
product | 3-(2,2,3,3,4,4,5,5,6,6,7,7,8,8,8-pentadecafluorooctoxymethy)-3-methyloxetane | FC(COCC1(COC1)C)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C13H11F15O2
